US06756378B2
To a stirred solution of methyl 4-[(1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]cyclohexane carboxylate (900 mg, 2.6 mmol) in CH2Cl2 (5.0 ml) was added TFA (5.0 ml) at 0° C. The reaction mixture was stirred at room temperature for 0.5 hr. The mixture was concentrated in vacuo. Sat. NaHCO3 was added to the residue, and extracted with CH2Cl2. The extract was washed with brine, dried over Na2SO4, and concentrated in vacuo. The crude product was used to the subsequent reaction without further purification. To a stirred solution of the crude product (200 mg, 0.83 mmol), 4-[N′-(2-chlorophenyl)uredio]-3-methoxyphenylacetic acid (277 mg, 0.83 mmol), HOBt (135 mg, 1.0 mmol), and triethylamine (344 ml, 2.48 mmol) in THF (10.0 ml) and MeCN (10.0 ml) was added EDC.HCl (238 mg, 1.24 mmol) at 0° C. The reaction mixture was stirred at room temperature for 16 hr, and concentrated in vacuo. Water was added to the residue, and extracted with EtOAc. The extract was washed with sat. NaHCO3, 2-M citric acid, and sat. NaHCO3, then dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (1:6, v/v) as eluent to give methyl 4-[[1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxylphenylacetyl]-(2S)-pyrrolidinyl]methoxy]cyclohexane carboxylate (450 mg, 97%) as a colorless oil. 1H-NMR (CDCl3) δ1.35-2.15 (m, 12H), 2.25-2.40 (m, 1H), 3.40-3.70 (m, 5H), 3.61 (s, 2H), 3.66 (s, 3H), 3.81 (s, 3H), 4.20-4.30 (m, 1H), 6.81-6.99 (m, 3H), 7.17-7.34 (m, 3H), 7.92-7.94 (m, 2H), 8.17-8.19 (m, 2H).

reactant | methyl 4-[(1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]cyclohexane carboxylate | 2.6 mmol, 900 mg | C(C)(C)(C)OC(=O)N1C(CCC1)COC1CCC(CC1)C(=O)OC | C18H31NO5
reactant | TFA | 5.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HOBt | 1.0 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.48 mmol, 344 ml | C(C)N(CC)CC | C6H15N
reactant | EDC.HCl | 1.24 mmol, 238 mg | CCN=C=NCCCN(C)C.Cl
reactant | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | MeCN | 10.0 ml | CC#N | C2H3N
product | methyl 4-[[1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxylphenylacetyl]-(2S)-pyrrolidinyl]methoxy]cyclohexane carboxylate | 450 mg, 97% | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1[C@@H](CCC1)COC1CCC(CC1)C(=O)OC)OC)=O | C29H36ClN3O6
